US05480899
Synthesis of methyl (S)-(+)-4-(oxiranylmethoxy)-benzoate
The same procedure of Reference Example 4 was repeated except that methyl 4-hydroxybenzoate was used in lieu of benzyl 4-hydroxybenzoate, and (S)-(+)-glycidyl toluenesulfonate was used in lieu of epibromohydrin to give the title compound (yield 90%).

reactant | methyl 4-hydroxybenzoate | OC1=CC=C(C(=O)OC)C=C1 | C8H8O3
reactant | benzyl 4-hydroxybenzoate | OC1=CC=C(C(=O)OCC2=CC=CC=C2)C=C1 | C14H12O3
reactant | (S)-(+)-glycidyl toluenesulfonate | C=1(C(=CC=CC1)S(=O)(=O)OC[C@@H]1CO1)C | C10H12O4S
reactant | epibromohydrin | C(Br)C1CO1 | C3H5BrO
product | methyl (S)-(+)-4-(oxiranylmethoxy)-benzoate | yield 90% | O1[C@@H](C1)COC1=CC=C(C(=O)OC)C=C1 | C11H12O4
